US09062076B2
To a stirred solution of methyl 5,6-dimethoxybenzo[b]thiophene-2-carboxylate (1.0 g, 4 mmol) in MeOH (20 mL) and THF (10 mL) was added 2N NaOH (10 mL) dropwise at room temperature. The resulting mixture was stirred at room temperature for 2 hours before adjusting the pH value to 3 with 1 N HCl and diluting with water. The resulting suspension was filtered and the solid was dried under vacuum to afford 5,6-dimethoxybenzo[b]thiophene-2-carboxylic acid as a white solid (890 mg, 94%). LC-MS (ES-API); rt 8.17 min; m/z calculated for C11H10O4S [M+Na]+ 261.0, found 260.9.

reactant | methyl 5,6-dimethoxybenzo[b]thiophene-2-carboxylate | 4 mmol, 1.0 g | COC1=CC2=C(SC(=C2)C(=O)OC)C=C1OC | C12H12O4S
reactant | NaOH | 2N, 10 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 5,6-dimethoxybenzo[b]thiophene-2-carboxylic acid | 890 mg, 94% | COC1=CC2=C(SC(=C2)C(=O)O)C=C1OC | C11H10O4S
